US05234918
8-(Hexadecyloxy)-7-methoxy-1-octene
To a suspension of 7.4 g of 60% sodium hydride in 100 ml of dimethylformamide was added a solution of 8-hydroxy-7-methoxy-1-octene in 150 ml of dimethylformamide over 1.5 hours. A 63.4 g portion of the tosylate of 1-hexadecanol was added and the mixture was stirred for 18 hours, poured into water and extracted with ether. The ether solution was dried and evaporated. The residue was purified by chromatography giving 41.5 g of the title compound as a oil.

reactant | sodium hydride | 7.4 g | [H-].[Na+]
reactant | 8-hydroxy-7-methoxy-1-octene | OCC(CCCCC=C)OC | C9H18O2
reactant | tosylate | S(=O)(=O)([O-])C1=CC=C(C)C=C1
reactant | 1-hexadecanol | C(CCCCCCCCCCCCCCC)O | C16H34O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 8-(Hexadecyloxy)-7-methoxy-1-octene | 41.5 g | C(CCCCCCCCCCCCCCC)OCC(CCCCC=C)OC | C25H50O2
